US07022862B2
In the survey of various acid catalysts for the pyrrole-benzaldehyde condensation, MgBr2 gave a good yield of 5-phenyldipyrromethane with little N-confused 5-phenyldipyrromethane and 5,10-diphenyltripyrrane. This observation prompted us to study the effect of MgBr2 on the pyrrole-mesitaldehyde condensation. Four reactions were carried out with 0.1, 0.3, 0.5 or 1.0 equiv of MgBr2 using a 100:1 ratio of pyrrole:mesitaldehyde at room temperature. For the reaction with 0.5 equiv of MgBr2, GC analysis showed 82.9% of 5-mesityldipyrromethane and 0.9% of unreacted mesitaldehyde. Among the acids surveyed, the use of 0.5 equiv of MgBr2 appeared superior for the synthesis of 5-mesityldipyrromethane.

reactant | pyrrole-benzaldehyde | N1C(=CC=C1)C1=CC=CC=C1C=O | C11H9NO
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
product | 5-phenyldipyrromethane | C1=CC=C(C=C1)C(C2=CC=CN2)C3=CC=CN3 | C15H14N2
